US04628024
30.4 g of 3,4-diaminobenzoic acid, 50 g of carbon disulfide and 50 g of triethylamine were dissolved in 200 ml of dioxane and the solution was refluxed by heating for 5 hours. The reaction mixture was cooled to room temperature, the crystals thus deposited were collected by filtration and recrystallized from water to obtain 14 g of 2-mercapto-5-carboxybenzimidazole. Melting Point: above 250° C.

reactant | 3,4-diaminobenzoic acid | 30.4 g | NC=1C=C(C(=O)O)C=CC1N | C7H8N2O2
reactant | carbon disulfide | 50 g | C(=S)=S | CS2
reactant | triethylamine | 50 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 2-mercapto-5-carboxybenzimidazole | 14 g | SC=1NC2=C(N1)C=CC(=C2)C(=O)O | C8H6N2O2S
